US07199147B2
Anhydrous trifluoromethanesulfonate (3.17 ml, 18.8 mmol) and triethylamine (2.75 ml, 19.7 mmol) were added dropwise to a solution of 2,3-dimethyl-4-nitrophenol (3.0 g, 17.9 mmol) in methylene chloride (60 ml) at 0° C. and stirred at room temperature for 1 hour. Then, the reaction solution was poured into water and extracted with chloroform. The organic layer was dried over magnesium sulfate and distilled to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 2,3-dimethyl-4-nitrophenyl trifluoromethanesulfonate (5.32 g, 99%).

reactant | trifluoromethanesulfonate | 18.8 mmol, 3.17 ml | FC(S(=O)(=O)[O-])(F)F
reactant | triethylamine | 19.7 mmol, 2.75 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethyl-4-nitrophenol | 17.9 mmol, 3.0 g | CC1=C(C=CC(=C1C)[N+](=O)[O-])O | C8H9NO3
reactant | water | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dimethyl-4-nitrophenyl trifluoromethanesulfonate | 5.32 g, 99% | FC(S(=O)(=O)OC1=C(C(=C(C=C1)[N+](=O)[O-])C)C)(F)F | C9H8F3NO5S
